US08957093B2
Step 4: (S)-1-(4-Bromobenzyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide
To a solution of 1-(4-bromobenzyl)-1H-indole-5-carboxylic acid (1.03 g, 3.1 mmol, 1 equiv) in DMF (30 mL) were added the (S)-1-(4-nitrophenyl)ethanamine hydrochloride (695 mg, 3.4 mmol, 1.1 equiv), DIEA (600 μL, 3.4 mmol, 1.1 equiv), HOBt (525 mg, 3.4 mmol, 1.1 equiv) and EDC (658 mg, 3.4 mmol, 1.1 equiv). After stirring 4 h at room temperature, the mixture was diluted with AcOEt and washed with a 0.5 N HCl aqueous solution, a saturated NaHCO3 solution and brine, dried over MgSO4 and concentrated in vacuo. The crude was purified by flash chromatography (Hexane/AcOEt 1/1) to afford a yellow powder (1.3 g, 2.7 mmol, 87%). ESI-MS (m/z): 478/480 [M+H]+.

reactant | 1-(4-bromobenzyl)-1H-indole-5-carboxylic acid | 3.1 mmol, 1.03 g, 1 equiv | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)O)C=C1 | C16H12BrNO2
reactant | (S)-1-(4-nitrophenyl)ethanamine hydrochloride | 3.4 mmol, 695 mg, 1.1 equiv | Cl.[N+](=O)([O-])C1=CC=C(C=C1)[C@H](C)N
reactant | DIEA | 3.4 mmol, 600 μL, 1.1 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 3.4 mmol, 525 mg, 1.1 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.4 mmol, 658 mg, 1.1 equiv
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (S)-1-(4-Bromobenzyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide | 2.7 mmol, 1.3 g, 87% | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)N[C@@H](C)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C24H20BrN3O3
